US07053089B2
4-Aminomethylpiperidine (40 g, 350 mmol) and benzaldehyde (37.3 mL, 368 mmol) in toluene (600 mL) were heated to reflux under Dean Stark conditions for 2 h. The resulting reaction mixture was cooled to room temperature and 500 mL dichloromethane was added. The resulting solution was cooled to 5° C. and treated with N-(benzyloxycarbonyloxy)succinimide (91.7 g, 368 mmol). After 10 min, the cooling bath was removed and the resulting reaction mixture stirred for 1 h. The solvents were evaporated and the residue stirred with 400 mL THF and 400 mL 2M HCl for 1 h. The mixture was concentrated to remove organics and extracted with ether (3×300 mL). The aqueous phase was adjusted to pH14 with 50% NaOH and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent evaporated to give benzyl 4-(aminomethyl)piperidine-1-carboxylate as an oil.

reactant | 4-Aminomethylpiperidine | 350 mmol, 40 g | NCC1CCNCC1 | C6H14N2
reactant | benzaldehyde | 368 mmol, 37.3 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
reactant | N-(benzyloxycarbonyloxy)succinimide | 368 mmol, 91.7 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 4-(aminomethyl)piperidine-1-carboxylate | NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
